US20010049379A1
F. 6-(4-(4-(2-Phenylethyl)piperazinylcarbonyl)-methylnaphthalen-1-yl]-pyridin-2-ylamine
To a 100 mL round-bottomed flask equipped with condenser and N2 inlet were added 157 mg (0.50 mmol) 6-(4-carboxymethylnaphthalen-1-yl)-pyridin-2-ylamine, 95 mg (0.50 mmol) N-phenethylpiperazine, 96 mg (0.50 mmol) N-ethyl, N-3-dimethylaminopropyl-carbodiimide, 0.230 mL (1.65 mmol) triethylamine, 10 mg N-hydroxybenzotriazole, and 7 mL dry acetonitrile. The reaction was stirred at room temperature 12 hours (LCMS showed P+1=451 and TLC showed Rf=0.3 in 10% methanol/methylene chloride), then evaporated and the residue chromatographed on silica gel using methanol/methylene chloride as eluant to afford the product as a foam, 230 mg (˜100%).

reactant | 6-(4-carboxymethylnaphthalen-1-yl)-pyridin-2-ylamine | 0.50 mmol, 157 mg | C(=O)(O)CC1=CC=C(C2=CC=CC=C12)C1=CC=CC(=N1)N | C17H14N2O2
reactant | N-phenethylpiperazine | 0.50 mmol, 95 mg | C(CC1=CC=CC=C1)N1CCNCC1 | C12H18N2
reactant | triethylamine | 1.65 mmol, 0.230 mL | C(C)N(CC)CC | C6H15N
reactant | N-hydroxybenzotriazole | 10 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methanol methylene chloride | CO.C(Cl)Cl
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 6-(4-(4-(2-Phenylethyl)piperazinylcarbonyl)-methylnaphthalen-1-yl]-pyridin-2-ylamine | C1(=CC=CC=C1)CCN1CCN(CC1)C(=O)C1=CC(=C(C2=CC=CC=C12)C1=CC=CC(=N1)N)C | C29H30N4O
